US06569929B2
A particular impurity is the pyrophosphate derived from reaction of two moles of disubstituted phosphoryl halide with water in a phosphoramide reaction mixture, or in isolation or purification of a phosphoramide product. For example, two moles of dixylylphosphoryl chloride may react with water to produce tetraxylyl pyrophosphate (hereinafter referred to as X-PYRO) and two moles of hydrochloric acid. Pyrophosphates may react further with water in a phosphoramide reaction mixture, or in isolation or purification of a phosphoramide product, or subsequently in the resinous compositions embodied in the present invention, to produce two moles of the corresponding phosphoric acid.

reactant | pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-]
reactant | phosphoramide | P(=O)(N)(N)N | H6N3OP
reactant | dixylylphosphoryl chloride | two moles | C1(=C(C(=CC=C1)C)C)P(=O)(C1=C(C(=CC=C1)C)C)Cl | C16H18ClOP
solvent | water | O | H2O
product | tetraxylyl pyrophosphate | O(P(OC1=C(C(=CC=C1)C)C)(=O)OP(=O)(OC1=C(C(=CC=C1)C)C)OC1=C(C(=CC=C1)C)C)C1=C(C(=CC=C1)C)C | C32H36O7P2
